US04587220
The experiment of Example I was repeated except that 10 mM of the ferric chelate of nitrilotriacetic acid (Fe-NTA) solution was used, rather than Fe-HEDTA. The Fe-NTA solution was prepared by dissolving 0.191 g of NTA in 100 mL of distilled water and adding FeCl3.6H2O, as described in Example I. The composition so produced formed a blue color, as in Example I, in the presence of 0.139 milligram of hemoglobin per deciliter and 50 μM ascorbate.

reactant | nitrilotriacetic acid | N(CC(=O)O)(CC(=O)O)CC(=O)O | C6H9NO6
reactant | Fe HEDTA | [Fe].C(CN(CC(=O)O)CC(=O)O)N(CCO)CC(=O)O
reactant | ascorbate | 50 μM | O=C1C(O)=C([O-])[C@H](O1)[C@@H](O)CO
solvent | water | 100 mL | O | H2O
product | Fe-NTA | C(C(=O)[O-])N(CC(=O)[O-])CC(=O)[O-].[Fe+3] | InChI=1S/C6H9NO6.Fe/c8-4(9)1-7(2-5(10)11)3-6(12)13;/h1-3H2,(H,8,9)(H,10,11)(H,12,13);/q;+3/p-3
